US08030334B2
To 2-pyridin-3-yl-1H-indole-5-carbonitrile (575 mg, 2.62 mmol), 4-(butoxycarbonyl)benzoic acid (700 mg, 3.15 mmol) and DMAP (780 mg, 3.93 mmol) in DMF (30 mL) is added DCC (811 mg, 3.93 mmol). The reaction is stirred for 3 days and the mixture is poured into water (50 mL) and extracted with ethyl acetate, dried over Na2SO4 and concentrated. The residue is purified by silica gel flash chromatography (ethyl acetate-heptane gradient) to give 4-(5-cyano-2-pyridin-3-yl-indole-1-carbonyl)-benzoic acid tert-butyl ester as a white solid. MS (ESI) m/z 424 (M+H)+.

reactant | 2-pyridin-3-yl-1H-indole-5-carbonitrile | 2.62 mmol, 575 mg | N1=CC(=CC=C1)C=1NC2=CC=C(C=C2C1)C#N | C14H9N3
reactant | 4-(butoxycarbonyl)benzoic acid | 3.15 mmol, 700 mg | C(CCC)OC(=O)C1=CC=C(C(=O)O)C=C1 | C12H14O4
reactant | DCC | 3.93 mmol, 811 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | water | 50 mL | O | H2O
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 3.93 mmol, 780 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-(5-cyano-2-pyridin-3-yl-indole-1-carbonyl)-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC=C(C=C1)C(=O)N1C(=CC2=CC(=CC=C12)C#N)C=1C=NC=CC1)=O | C26H21N3O3
